US05527791
Allyl 3-aminocinnamate
Crude allyl 3-nitrocinnamate (3 g, 12.9 mM) was dissolved in ethyl acetate (10 ml) and added slowly to a stirred suspension of SnCl2.2H2O(14.52 g, 64 mM) in ethyl acetate (20 ml). The mixture was refluxed under argon for 3 hours, cooled, and poured into a mixture of ammonia (sg 880, 15 ml) and water (5 ml). Ethyl acetate (50 ml) was added, and the organic layer separated by decantation. Two further extractions with ethyl acetate (each 50 ml) were made similarly. The combined extracts were washed with water and brine, dried (MgSO4) and evaporated to give title compound (2.6 g).

reactant | allyl 3-nitrocinnamate | 12.9 mM, 3 g | [N+](=O)([O-])C=1C=C(C=CC(=O)OCC=C)C=CC1 | C12H11NO4
reactant | SnCl2.2H2O | 64 mM, 14.52 g | O.O.Cl[Sn]Cl
reactant | ammonia | 15 ml | N | H3N
reactant | water | 5 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | Allyl 3-aminocinnamate | 2.6 g | NC=1C=C(C=CC(=O)OCC=C)C=CC1 | C12H13NO2
